US07816522B2
(185b) 4-Aminothiazole-5-carboxylic acid ethyl ester
To 1 liter of a methanol:THF=1:1 mixed solvent solution containing 34.5 g of 4-amino-2-methanesulfonylthiazole-5-carboxylic acid ethyl ester, 10.4 g of sodium borohydride was added in small portions over a period of 20 minutes at room temperature. The reaction mixture was stirred at room temperature for 2 hours, and then was poured into 8 liters of ethyl acetate and 4 liters of water. The organic layer was washed with 3 liters of water and 3 liters of saturated brine, and the aqueous layer was extracted with ethyl acetate again. The organic layers were combined and dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (19.3 g) as a light yellow solid.

reactant | methanol | 1 liter | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
reactant | 4-amino-2-methanesulfonylthiazole-5-carboxylic acid ethyl ester | 34.5 g | C(C)OC(=O)C1=C(N=C(S1)S(=O)(=O)C)N | C7H10N2O4S2
reactant | sodium borohydride | 10.4 g | [BH4-].[Na+]
solvent | water | 4 liters | O | H2O
solvent | ethyl acetate | 8 liters | C(C)(=O)OCC | C4H8O2
product | 4-Aminothiazole-5-carboxylic acid ethyl ester | 19.3 g | C(C)OC(=O)C1=C(N=CS1)N | C6H8N2O2S
